US08802670B2
2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine was reacted with 2-[4-chloro-3-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane in general procedure A. Purification on silica yielded 2-[4-chloro-3-(4-methoxy-benzyloxy)-phenyl]-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine. This was then reacted with trifluoroacetic acid in dichloromethane to yield the desired compound.

reactant | 2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C16H22ClN5OS
reactant | 2-[4-chloro-3-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C20H24BClO4
product | 2-[4-chloro-3-(4-methoxy-benzyloxy)-phenyl]-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC1=C(C=C(C=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2)OCC2=CC=C(C=C2)OC | C30H34ClN5O3S
